US04840971
Synthesis of 2-(3-chloro-4-ethoxyphenyl)-3,3,3-trifluoropropyl 3-(4-fluorophenoxy)benzyl ether (Compound (20))
Under a nitrogen atmosphere, 60 mg of sodium hydride (60% oil dispersion) was added to 10 ml of dry THF. A solution of 0.41 g of 2-(3-chloro-4-ethoxyphenyl)-3,3,3-trifluoropropanol and 1.43 g of 3-(4-fluorophenoxy)benzyl bromide in 10 ml of dry THF was then added with ice-cooling, and the reaction solution was stirred with ice-cooling for 1 hour and at room temperature for 12 hours. Thereafter, the reaction mixture was poured into dilute HCl-ice water and extracted twice with diethyl ether. The ether layers were combined, washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed under a reduced pressure, and the residue was subjected to column chromatography on silica gel [eluted with n-hexane/ethyl acetate (40:1) mixture] to obtain 255 mg of the desired compound.

reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | 2-(3-chloro-4-ethoxyphenyl)-3,3,3-trifluoropropanol | 0.41 g | ClC=1C=C(C=CC1OCC)C(CO)C(F)(F)F | C11H12ClF3O2
reactant | 3-(4-fluorophenoxy)benzyl bromide | 1.43 g | FC1=CC=C(OC=2C=C(CBr)C=CC2)C=C1 | C13H10BrFO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(3-chloro-4-ethoxyphenyl)-3,3,3-trifluoropropyl 3-(4-fluorophenoxy)benzyl ether | 255 mg | FC1=CC=C(OC=2C=C(COCC(C(F)(F)F)C3=CC(=C(C=C3)OCC)Cl)C=CC2)C=C1 | C24H21ClF4O3
